US06753327B1
a) Ethyl 2-(E-2-(4-(N,N-dimethylaminomethyl)phenyl)ethen-1-yl)nicotinate
6.7 g (39 mmol) of ethyl 2-chloronicotinate, 8.2 g (51 mmol) of 4-(N,N-dimethylaminomethyl)styrene, 9.9 g (98 mmol) of triethylamine, 0.36 g of palladium(II) acetate and 0.96 [lacuna] of tri(o-tolyl)phosphine were mixed in 150 ml of dimethylformamide and, after addition of 1 ml of water, stirred at 140° C. for 13 h. The reaction mixture was then concentrated in vacuo, and the resulting residue was partitioned between ethyl acetate and water. The organic phase was separated off, washed with water, dried and concentrated in vacuo. The residue was then crystallized as oxalate from isopropanol after addition of an equivalent amount of oxalic acid. 4.1 g (27%) of the product were obtained as monooxalate.

reactant | ethyl 2-chloronicotinate | 39 mmol, 6.7 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 4-(N,N-dimethylaminomethyl)styrene | 51 mmol, 8.2 g | CN(C)CC1=CC=C(C=C)C=C1 | C11H15N
reactant | triethylamine | 98 mmol, 9.9 g | C(C)N(CC)CC | C6H15N
reactant | tri(o-tolyl)phosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.36 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1 ml | O | H2O
product | Ethyl 2-(E-2-(4-(N,N-dimethylaminomethyl)phenyl)ethen-1-yl)nicotinate | 4.1 g, 27% | CN(C)CC1=CC=C(C=C1)/C=C/C1=C(C(=O)OCC)C=CC=N1 | C19H22N2O2
